US04263466
Example 1 was repeated with the exception that the triphenylphosphine was replaced by an equivalent amount of tris(p-methoxyphenyl) phosphine. A 89% yield of biphenyl was obtained in 2 hours.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tris(p-methoxyphenyl) phosphine | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C21H21O3P
product | biphenyl | 89% yield | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
